US06528165B2
Approximately 1073 grams of tertiary amine oxide such as N-methylmorpholine-N-oxide in water (76% NMMO, 24% H2O), 16 g of cellulose (DP=625, 5% moisture content) and 1.5 g stabilizer, e.g., gallic acid propyl ester, are prepared in a container and heated to above 72° C. This solution is stirred for approximately 15 minutes and about 100 g of water is then separated under vacuum. After water removal step a clear cellulose solution is obtained. Alternatively, 554 g of NMMO/water mixture (83% NMMO), 0.8 g stabilizer and 11.3 g cellulose are prepared in a container and heated to approx. 95° C. while being stirred simultaneously. After approximately 30 to 60 minutes a cellulosic solution is obtained. In this procedure it is no longer necessary to separate the water.

reactant | N-methylmorpholine-N-oxide | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | gallic acid propyl ester | C(CC)OC(C1=CC(O)=C(O)C(O)=C1)=O | C10H12O5
solvent | water | O | H2O
product | NMMO water | 554 g, 83% | C[N+]1(CCOCC1)[O-].O | InChI=1S/C5H11NO2.H2O/c1-6(7)2-4-8-5-3-6;/h2-5H2,1H3;1H2
